US06927222B2
ii) N-[2-(2-Oxiranylmethoxy)phenyl]urea
A solution of epibromohydrin (0.94 g, 6.84 mmol) in dry DMF (2 mL) was added dropwise to a stirred suspension of N-(2-hydroxyphenyl)urea (0.65 g, 4.27 mmol) and cesium carbonate (2.22 g, 6.84 mmol) in DMF (8 mL). After 2 hours the mixture was partitioned between water and ethyl acetate. The aqueous phase was extracted with ethyl acetate and the combined organic phase was washed with water (3 times), dried and concentrated. The semi-solid residue was disssolved in dichloromethane/ethyl ether, filtered and heptane was added to turbidity. After standing at room temperature overnight, the solid was filtered to afford the subtitle compound (0.28 g, 32%).

reactant | epibromohydrin | 6.84 mmol, 0.94 g | C(Br)C1CO1 | C3H5BrO
reactant | N-(2-hydroxyphenyl)urea | 4.27 mmol, 0.65 g | OC1=C(C=CC=C1)NC(=O)N | C7H8N2O2
reactant | cesium carbonate | 6.84 mmol, 2.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-[2-(2-Oxiranylmethoxy)phenyl]urea | 0.28 g, 32% | O1C(C1)COC1=C(C=CC=C1)NC(=O)N | C10H12N2O3
